* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt AD8410A 1 2 3 4 5 6 7
R_INN_OUT1 OUTx INNx 600E3
RCM_INN1 N010 N009 30000.505
RCM_INP1 INPx VSL_OUTP 30000.0
R1 2 OUTx 1E12
R_INP_REF1 INPx REFMID 569988.7
R_REF1 6 REFMID 60E3
R_REF2 3 REFMID 60E3
R2 VSL_INN 2 1
R3 1 2 562E3
R4 2 7 562E3
D1 N029 N027 D
V4 N029 2 1.5
D2 7 N027 D
D3 N004 N006 D
D4 1 N006 D
V5 N004 2 1.5
G1 2 VSL_INN 1 2 1
G2 2 VSL_INP 7 2 1
R5 VSL_INP 2 1
R6 VZ 2 100E9
G3 2 VZ VY VO 0.3
C1 VZ 2 0.91E-9
G4 2 VO VZ 2 7m
R7 VO 2 5
C2 VO 2 20n
D5 N020 VZ D
D6 VZ N021 D
V6 2 N020 150
V7 2 N021 -150
LCM_INN1 N010 INNx 0.0317E-3
D9 N018 N017 DN
D10 N014 7 D
D11 N016 N015 DN
D12 7 N019 D
D13 N014 1 D
D14 1 N019 D
V10 N019 2 79.3
V11 2 N014 19.3
D15 N022 7 Ddiff
D16 N023 1 Ddiff
D17 N022 1 D
D18 N023 7 D
D19 N026 N028 D
D20 N026 7 D
V12 N028 2 -5
R8 N026 2 40E3
D21 N005 N003 D
D22 N005 1 D
V13 N003 2 -5
R9 2 N005 40E3
Isupply1 5 2 7.8E-3
Vos1 N009 N008 0E-6
H1 N011 OUTx Vn1 707.1067812
Vn1 N015 2 0
Vn2 N016 2 0.65
Vn3 N017 2 0
Vn4 N018 2 0.65
H2 N011 VX Vn3 707.1067812
C3 VY 2 1E-9
C4 VSL_OUTP 2 1E-15
R10 VSL_OUTP 2 10E9
R11 VY 2 1E9
BSL1 2 VSL_OUTP I=limit((1*V(VSL_INP, VSL_OUTP)), 0.4, -0.4)
BSL2 2 VY I=limit((1*V(VX, VY)), 0.0085, -0.0086)
G5 2 OUTx INPx INNx 100
EVSx1 VSx 2 5 2 1
Rout VO 4 0.2
BIbiasP N027 2 I=IF(V(3,0)<=0&V(6,0)<=0, 0e-6, 110e-6)
BIbiasN N006 2 I=IF(V(3,0)<=0&V(6,0)<=0, 0e-6, 110e-6)
C5 N032 N031 {C1a_PSRR}
G6 2 N031 VSx 2 {G1_PSRR}
R12 N031 2 1 Noiseless
R13 N032 N031 {R1a_PSRR} Noiseless
R14 N032 2 {R2a_PSRR} Noiseless
C6 N034 N033 {C1b_PSRR}
R15 N034 2 {R2b_PSRR} Noiseless
R16 N034 N033 {R1b_PSRR} Noiseless
G7 2 N033 N032 2 1
R17 N033 2 1 Noiseless
G8 2 PSRR N034 2 {G2_PSRR}
R18 PSRR 2 1 Noiseless
G9 VSL_INN N008 PSRR 2 1k
R19 N008 VSL_INN 1m
B1 Satp VSx I=1m*Dnlim(Ap + Bp*V(Vimon,2) +Cp*V(Vimon,2)**2,Ap,1m)
R20 Satp VSx 1k
C7 Satp VSx 1n
B2 2 Satn I=1m*Dnlim(Mn*(-V(Vimon,2)) +OSn,OSn,1m)
R21 Satn 2 1k
C8 Satn 2 1n
B3 2 Vimon I=1m*I(Rout) Rpar=1k Cpar=1n
G10 2 Vsatp Satp 2 1k
R22 Vsatp 2 1m
G11 2 Vsatn Satn 2 1k
R23 Vsatn 2 1m
C9 Vsatp 2 1n
C10 Vsatn 2 1n
DOP Vsatp VO DO
DON VO Vsatn DO
C11 VO Vsatp 1f
C12 VO Vsatn 1f
.model D D(IS=1E-14)
.model DN D(IS=5.45E-12 KF=5.34E-16)
.model Ddiff D(IS=1e-14 BV=19.3 )
.param gain_PSRR = {pow(10, (-Rej_dc_PSRR/20))}
.param C1a_PSRR = {1 / (2 * pi * R1a_PSRR * fz1_PSRR)}
.param R2a_PSRR = {R1a_PSRR/ ((2 * pi * fp1_PSRR * C1a_PSRR
+* R1a_PSRR) - 1)}
.param actual1_PSRR = {R2a_PSRR / (R1a_PSRR + R2a_PSRR)}
.param G1_PSRR = {gain_PSRR/actual1_PSRR}
.param Rej_dc_PSRR=120
.param R1a_PSRR=100k
.param fz1_PSRR=1.9k
.param fp1_PSRR=25Meg
.param C1b_PSRR = {1 / (2 * pi * R1b_PSRR * fz2_PSRR)}
.param R2b_PSRR = {R1b_PSRR/ ((2 * pi * fp2_PSRR * C1b_PSRR
+* R1b_PSRR) - 1)}
.param actual2_PSRR = {R2b_PSRR / (R1b_PSRR + R2b_PSRR)}
.param G2_PSRR = {1/actual2_PSRR}
.param R1b_PSRR=100k
.param fz2_PSRR=310k
.param fp2_PSRR={fp1_PSRR}
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.param Ap=6m Bp=16.44 Cp=70.63
.param Mn=8.16 OSn=17.3m
.ends AD8410A
